US07365095B2
To a solution of [(R)-8-bromo-6-fluoro-3,4-dihydro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate, prepared in Example 38, step 2 (0.40 g, 0.97 mmol) and 2,5-dichlorophenylboronic acid (0.56 g, 2.9 mmol) in dioxane (10 ml) was added a solution of potassium carbonate (0.34 g, 2.4 mmol) in water (2 mL) and the mixture purged with nitrogen for 20 minutes. Dichlorobis(tri-o-tolylphosphine)palladium (II) (20 mg, 0.029 mmol) was added and the reaction mixture heated to reflux for 1 hour. The cooled reaction mixture was then partitioned between ethyl acetate (100 mL) and 2.0 M aqueous sodium hydroxide (100 mL). The organic layer was separated, washed with water (100 mL) and saturated brine (100 mL), dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to afford a yellow syrup. Purification by flash chromatography using a solvent gradient of 5 to 20% ethyl acetate in hexane gave 0.41 g (88%) of ((R)-8-(2,5-dichlorophenyl)-6-fluoro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate as a colorless oil. MS (ES) m/z 496.0 ([M+NH4]+).

reactant | [(R)-8-bromo-6-fluoro-3,4-dihydro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=C(C=C2CC1)F)Br | C17H16BrFO4S
reactant | 2,5-dichlorophenylboronic acid | 2.9 mmol, 0.56 g | ClC1=C(C=C(C=C1)Cl)B(O)O | C6H5BCl2O2
reactant | potassium carbonate | 2.4 mmol, 0.34 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | dichlorobis(tri-o-tolylphosphine)palladium | 0.029 mmol, 20 mg | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | ((R)-8-(2,5-dichlorophenyl)-6-fluoro-2H-chromen-2-yl)methyl 4-methylbenzenesulfonate | 0.41 g, 88% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=C(C=C2C=C1)F)C1=C(C=CC(=C1)Cl)Cl | C23H17Cl2FO4S
